US08455663B2
Ethylene diamine (30 mg, 0.5 mmol) was dissolved in dry ethanol (1.9 ml). The solution was cooled to 0° C. and 2-(2-chloro-3-ethynyl-phenoxy)-butyrimidic acid methyl ester (100 mg, 0.4 mmol) was added. After 1 h a solution of concentrated HCl (few drops) in ethanol (0.9 ml) was added and the reaction mixture was stored overnight at 0° C. The reaction mixture was then diluted with a further portion of ethanol (1.6 ml) and heated to 75° C. for 5 h. After cooling to room temperature a precipitate was formed that was filtered and discarded. The filtrate was evaporated and treated with CHCl3. Another precipitate was formed, which was filtered again. Finally, the CHCl3 phase was evaporated to yield 2-[1-(2-chloro-3-ethynyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole; 1H-NMR (CDCl3) 1.08 t, 3H, 1.9-2.1 m, 2H, 3.10-3.9, vbr s, 4H, 3.39, s, 1H, 4.85 dd, 1H, 7.05 d, 1H, 7.1-7.2, m, 2H.

reactant | Ethylene diamine | 0.5 mmol, 30 mg | C(CN)N | C2H8N2
reactant | 2-(2-chloro-3-ethynyl-phenoxy)-butyrimidic acid methyl ester | 0.4 mmol, 100 mg | COC(C(CC)OC1=C(C(=CC=C1)C#C)Cl)=N | C13H14ClNO2
reactant | HCl | Cl | ClH
solvent | ethanol | 1.9 ml | C(C)O | C2H6O
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
product | 2-[1-(2-chloro-3-ethynyl-phenoxy)-propyl]-4,5-dihydro-1H-imidazole | ClC1=C(OC(CC)C=2NCCN2)C=CC=C1C#C | C14H15ClN2O
